US05003106
A solution of 825 mg of phenyl-N-(4-chloro-2,6-dimethylphenyl)carbamate and 782 mg of N-(3,3-dimethylbutyl)-4-(2,2-dimethylpropyl)benzenemethanamine in 40 ml of toluene was heated to reflux for 1 hour, cooled, and the solution was washed with 1N sodium hydroxide, brine, dried, and evaporated to dryness to yield a solid. The solid was recystallized from hexane to yield 1-[3,3-dimethylbutyl]-1-[[4-(2,2-dimethylpropyl)phenyl]methyl]-3-[4-chloro-2,6-dimethylphenyl]urea as a white solid, mp 148°-150° C.

reactant | phenyl-N-(4-chloro-2,6-dimethylphenyl)carbamate | 825 mg | C1(=CC=CC=C1)OC(NC1=C(C=C(C=C1C)Cl)C)=O | C15H14ClNO2
reactant | N-(3,3-dimethylbutyl)-4-(2,2-dimethylpropyl)benzenemethanamine | 782 mg | CC(CCNCC1=CC=C(C=C1)CC(C)(C)C)(C)C | C18H31N
reactant | hexane | CCCCCC | C6H14
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | 1-[3,3-dimethylbutyl]-1-[[4-(2,2-dimethylpropyl)phenyl]methyl]-3-[4-chloro-2,6-dimethylphenyl]urea | CC(CCN(C(=O)NC1=C(C=C(C=C1C)Cl)C)CC1=CC=C(C=C1)CC(C)(C)C)(C)C | C27H39ClN2O
